US07572820B2
B. 2-[4-Chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]propanoic acid
To a solution of 1,1-dimethylethyl 2-[4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]propanoate (0.072 g, 0.2 mmol) in CH2Cl2 (5 mL) was added TFA (5 mL) and stirred at rt for 4 h. The mixture was concentrated in vacuo. The residue was diluted with Et2O and hexane was added while stirring. The solids were collected by filtration and washed with hexane to afford the title compound as a white solid (0.058 g, 95% yield): MS (ES) m/z 299 (M+1).

reactant | 1,1-dimethylethyl 2-[4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]propanoate | 0.2 mmol, 0.072 g | ClC1=C2C=C(N(C2=CC=C1C#N)C(C(=O)OC(C)(C)C)C)C(F)F | C17H17ClF2N2O2
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-Chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]propanoic acid | 0.058 g, 95% yield | ClC1=C2C=C(N(C2=CC=C1C#N)C(C(=O)O)C)C(F)F | C13H9ClF2N2O2
